Name:  ___   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
lisinopril / Influenza Virus Vaccines
 
Attending: ___.
 
Chief Complaint:
episodes of facial twitching 

 
Major Surgical or Invasive Procedure:
EEG

 
History of Present Illness:
___ yr with HTN who presented to the ED with  5 episodes of 10 
sec left ___ twitching with associated difficulty 
speaking while twitching. Neurology was consulted for concerns 
about TIA. 

Patient is a poor historian despite her 2 daughters translating 
and an interpreter. She describes episodes of a feeling that her 
whole left lower face is deviating or getting pulled to the 
right side with difficulty speaking during the event. these 
episodes occur only during sleep. last episode occurred today 
during afternoon nap for which her son brought her in. She could 
not give a duration of frequency but said they happen every time 
she goes to sleep. She denies associated pain, numbness in her 
face. No drooling , no associated vision loss, numbness or 
weakness anywhere and no twitching or jerky movements in any of 
her extremities.  . She is awake and aware during these episodes 
and denies post-event confusion. No recent illnesses or falls. 

 
Past Medical History:
DIABETES TYPE II                                                
HYPERLIPIDEMIA                                                  
HYPERTENSION                                                    
OSTEOPOROSIS                                                    
KNEE PAIN                                                       
GASTROESOPHAGEAL REFLUX                                          
                      CONSTIPATION                               
                     
TRICUSPID REGURGITATION                                         
H/O HELICOBACTER PYLORI                                         
H/O PPD POSITIVE                                                
H/O RENAL CYST                                                  
H/O HEPATIC CYST   
 
Social History:
Country of Origin:  ___                                  
Marital status:     Widowed                                     
Children:           Yes: 3 sons, 2 dtrs                         
Lives with:         Children                                    
Lives in:           House                                       
Work: ___
Multiple partners:  ___                                      
___ activity:    Past                                        
Sexual orientation: Male                                        
Sexual Abuse:       Denies                                      
Domestic violence:  Denies                                      
Tobacco use:        Never smoker                                
Alcohol use:        Denies                                      
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):         
 
Family History:
Relative  Status    Age Problem              Comments           
Mother    ___  ___  ASTHMA                                  

Father    ___  ___  HEALTHY                                 

Aunt      Deceased      DIABETES MELLITUS    maternal           

Uncle     Deceased      DIABETES MELLITUS    maternal        
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
Physical Exam:
Vitals:  temp 97.8, HR 67, BP 165/84, RR 18, 98% RA.
General: awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR, nl
Abdomen: soft, NT/ND
Extremities: warm, well perfused
Skin: no rashes or lesions noted

Neurologic:

-Mental Status: Alert, oriented x 3. limited given language 
barrier. poor historian . Attentive, able to name ___ backward 
without difficulty. Language is fluent per daughters.  Pt was 
able to name both high and low frequency objects. Speech was not 
dysarthric. Able to follow both midline and appendicular 
commands. There was no evidence of  neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.

-Gait: deferred 
DISCHARGE PHYSICAL EXAMINATION: 
Stable, unchanged, stable gait
 
Pertinent Results:
Hematology 
 COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW RDWSD Plt 
Ct 
___ 05:40AM    8.0 4.27 12.9 38.6 90 30.2 33.4 14.4 
47.1* 220 Import Result 

 
___ 05:15AM    8.1 4.37 12.7 39.5 90 29.1 32.2 14.2 
46.4* 208 Import Result 

 
___ 05:45AM    6.9 4.08 12.2 37.3 91 29.9 32.7 14.4 
47.8* 215 Import Result 

 
___ 05:57PM    9.7 4.13 12.4 37.7 91 30.0 32.9 14.2 
47.1* 222 Import Result 

 
 DIFFERENTIAL Neuts Bands Lymphs Monos Eos Baso Atyps Metas Im 
___ AbsLymp AbsMono AbsEos AbsBaso 
___ 05:57PM    38.8   50.2 8.1 2.0 0.5     0.4 3.76 
4.86* 0.78 0.19 0.05 Import Result 

 
 RED CELL MORPHOLOGY Hypochr Anisocy Poiklo Macrocy Microcy 
Polychr 
___ 05:57PM    NORMAL OCCASIONAL NORMAL OCCASIONAL 
NORMAL OCCASIONAL Import Result 

 
 BASIC COAGULATION ___, PTT, PLT, INR) ___ PTT Plt Smr Plt Ct 
___ 
___ 05:40AM          220   Import Result 

 
___ 05:40AM    12.0 37.3*     1.1 Import Result 

 
___ 05:15AM          208   Import Result 

 
___ 05:45AM          215   Import Result 

 
___ 05:57PM        NORMAL 222   Import Result 

 
 

Chemistry 
 RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 05:40AM    113* 21* 0.9 138 3.5 100 25 17 Import 
Result 

 
___ 05:15AM    113* 20 0.8 139 3.9 ___ Import 
Result 

 
___ 05:45AM    110* 21* 0.8 139 3.7 ___ Import 
Result 

 
___ 05:57PM    96 17 1.1 136 5.1 100 26 15 Import Result 


 
 ESTIMATED GFR (MDRD CALCULATION) estGFR 
___ 05:57PM    Using this Import Result 

 
 ENZYMES & BILIRUBIN ALT AST LD(LDH) CK(CPK) AlkPhos Amylase 
TotBili DirBili 
___ 05:57PM      57*     71   0.4   Import Result 

 
 OTHER ENZYMES & BILIRUBINS Lipase 
___ 05:57PM    34 Import Result 

 
 CHEMISTRY TotProt Albumin Globuln Calcium Phos Mg UricAcd Iron 
___ 05:40AM          10.0 3.7 1.9     Import Result 

 
___ 05:15AM          9.7 3.7 2.0     Import Result 

 
___ 05:45AM          9.8 3.5 2.0     Import Result 

 
___ 05:57PM      4.0   9.6 3.5 1.9     Import Result 

 
 DIABETES MONITORING %HbA1c eAG 
___ 06:39PM    6.1* 128* Import Result 

 
 PITUITARY TSH 
___ 05:57PM    1.6 Import Result 

 
 LAB USE ONLY GreenHd 
___ 05:57PM    HOLD Import Result 
 
 
IMAGING: 
  
MRI BRAIN: 1. No evidence of infarction, hemorrhage, mass, or 
abnormal enhancement. 
2. Mild diffuse parenchymal volume loss with mild probable 
chronic small 
vessel ischemic disease. 
3. Question of vascular ectasia versus aneurysm or vascular 
infundibulum of 
the right carotid terminus, as described above.  Recommend CTA 
or MRA to 
further assess. 

 
Brief Hospital Course:
 

Ms. ___ is a healthy ___ woman with a past medical 
history of htn, hyperlipidemia who presented with complaints of 
paroxysmal head turning to the left only while sleeping. These 
events have been going on for a few months and have been 
occurring a few times per week. Otherwise, the patient as 
feeling well. 
Seizure was at the top of the differential, and her neurologic 
examination was unremarkable. The patient was connected to EEG 
where one of these events was captured on video EEG. No eeg 
correlate to suggest epileptiform activity, however on video it 
seemed to look like a focal motor seizure which may be too deep 
down to have been picked up on eeg. 
Next, MRI brain with and without contrast was done to evaluate 
for any enhancement, strokes, or structural lesions to explain 
her symptoms, however the MRI only showed small vessel disease 
and some mild atrophy, but no other significant findings. 
An LP was also done which was bland, however viral studies and 
autoimmune/paraneoplastic studies were sent. 
A trial of keppra 750 mg BID was started to see if this would 
help stop her symptoms at night. The patient tolerated this 
medication well. An MRA of the head and neck was lastly 
conducted to rule out any aneurysms or vessel abnormalities and 
was read ?of aneurysm of ICA at the level of the clinoid. We 
arranged for neurosurgical/vascular follow up with Dr. ___ 
___ to review this and monitor the small aneurysm (incidental 
finding)  
The patient's exam remained stable and she was discharged home 
on keppra 750mg BID and an appointment to follow up with 
Neurology in ___. 

Transitions of care issues: 
1. Please take all of your home medications as prescribed
2. Please take your new anti seizure medication called Keppra at 
750mg twice a day
3. Please follow up with us in Neurology on ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 

 
Discharge Medications:
1.  LevETIRAcetam 750 mg PO Q12H  
2.  Atorvastatin 40 mg PO QPM  
3.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Focal motor seizure 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the Neurology service as you were having 
these strange episodes of face and head pulling to the left 
while you are sleeping. You were connected to EEG and one of 
these episodes were captured on EEG (measures brainwaves), but 
no clear abnormalities were seen with this test. You next 
underwent MRI brain which also did not show any structural 
lesions to cause these symptoms. Lastly, you had a lumbar 
puncture which tests your spinal fluid for any signs of 
inflammation or infection to cause this, which thankfully was 
normal. 
We feel that you are having focal motor seizures that cause you 
to be pulled to the left. We started you on a new medication 
called Keppra at 750mg twice daily. Please continue to take this 
medication. 

You will follow with us in Neurology. You were discharged safely 
to home. 

We wish you the best! 

Sincerely, 
Your ___ Neurology Team 
 
Followup Instructions:
___